US08022208B2
N-(5-chloropyridin-2-yl)-3-hydroxy-2-({4-[2-oxo-1-(2-piperazin-1-ylethyl)-1,2-dihydropyridin-3-yl]benzoyl}amino)benzamide (130 mg) was dissolved in pyridine (5 mL), and with cooling with ice, methanesulfonyl chloride (51 μL) was added, followed by stifling at room temperature for 4 hours. The reaction mixture was concentrated under reduced pressure, then azeotroped with toluene. An aqueous saturated sodium hydrogencarbonate solution was added to the residue, followed by extraction with chloroform. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by NH-silica gel column chromatography (methanol/chloroform=0% to 5%), then by silica gel column chromatography (methanol/chloroform=0% to 5%). The resulting compound was dissolved in ethyl acetate, and 4 N hydrochloric acid/ethyl acetate was added, followed by stirring at room temperature for 30 minutes. The precipitate was collected by filtration and dried under reduced pressure to obtain N-(5-chloropyridin-2-yl)-3-hydroxy-2-{[4-(1-{2-[4-(methylsulfonyl)piperazin-1-yl]ethyl}-2-oxo-1,2-dihydropyridin-3-yl)benzoyl]amino}benzamide hydrochloride (47 mg) as a yellow white solid.

reactant | N-(5-chloropyridin-2-yl)-3-hydroxy-2-({4-[2-oxo-1-(2-piperazin-1-ylethyl)-1,2-dihydropyridin-3-yl]benzoyl}amino)benzamide | 130 mg | ClC=1C=CC(=NC1)NC(C1=C(C(=CC=C1)O)NC(C1=CC=C(C=C1)C=1C(N(C=CC1)CCN1CCNCC1)=O)=O)=O | C30H29ClN6O4
reactant | methanesulfonyl chloride | 51 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | N-(5-chloropyridin-2-yl)-3-hydroxy-2-{[4-(1-{2-[4-(methylsulfonyl)piperazin-1-yl]ethyl}-2-oxo-1,2-dihydropyridin-3-yl)benzoyl]amino}benzamide hydrochloride | 47 mg | Cl.ClC=1C=CC(=NC1)NC(C1=C(C(=CC=C1)O)NC(C1=CC=C(C=C1)C=1C(N(C=CC1)CCN1CCN(CC1)S(=O)(=O)C)=O)=O)=O | InChI=1S/C31H31ClN6O6S.ClH/c1-45(43,44)38-18-15-36(16-19-38)14-17-37-13-3-5-24(31(37)42)21-7-9-22(10-8-21)29(40)35-28-25(4-2-6-26(28)39)30(41)34-27-12-11-23(32)20-33-27;/h2-13,20,39H,14-19H2,1H3,(H,35,40)(H,33,34,41);1H
